US07256186B2
To a solution of (2R,5S)-1-(4-chloro-benzenesulfonyl)-5-(3-fluoro-phenyl)-pyrrolidine-2-carboxylic acid methyl ester (0.45 g, 1.1 mmol) in anhydrous toluene (5 mL) at 0° C. was added dropwise diisobutylaluminum hydride (1M in hexane, 6.4 mL, 6.4 mmol). The mixture was allowed to warm to room temperature and stirred for 16 hr. The reaction was quenched by adding 1 N HCl (10 mL) and the mixture diluted with EtOAc (20 mL). The organic phase was separated, washed with 10% NaHCO3 and brine, dried (Na2SO4) and concentrated under vacuum to give 0.40 g (99%) of (2R,5S)-[1-(4-chloro-benzenesulfonyl)-5-(3-fluoro-phenyl)-pyrrolidin-2-yl]-methanol as a yellowish solid. 1H NMR (CDCl3, 300 MHz) δ 7.89 (2H, d), 7.62 (2H, d), 7.50–7.20 (3H, m), 7.06 (1H, td), 4.84 (1H, t), 4.05–3.85 (3H, m), 2.05 (2H, q), 1.95–1.80 (3H, m). The 1H NMR spectrum showed complete conversion of ester to alcohol and the material was used without further purification.

reactant | (2R,5S)-1-(4-chloro-benzenesulfonyl)-5-(3-fluoro-phenyl)-pyrrolidine-2-carboxylic acid methyl ester | 1.1 mmol, 0.45 g | COC(=O)[C@@H]1N([C@@H](CC1)C1=CC(=CC=C1)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C18H17ClFNO4S
reactant | diisobutylaluminum hydride | 6.4 mmol, 1M, 6.4 mL | [H-].C(C(C)C)[Al+]CC(C)C
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | (2R,5S)-[1-(4-chloro-benzenesulfonyl)-5-(3-fluoro-phenyl)-pyrrolidin-2-yl]-methanol | 0.40 g, 99% | ClC1=CC=C(C=C1)S(=O)(=O)N1[C@H](CC[C@H]1C1=CC(=CC=C1)F)CO | C17H17ClFNO3S
